US09126950B2
To a 25 mL 3-neck RBF previously equipped with a magnetic stirrer and CaCl2 guard tube was added 4-amino-2-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenol (0.075 g in 5 mL DCM) and it was cooled to −40° C. and acryloyl chloride (0.019 g in 3 mL DCM) was slowly added. The reaction was warmed to room temperature and stirred for 30 min. The reaction was monitored on TLC using hexane:ethyl acetate (7:3) as mobile phase. The reaction was complete after 30 min. The reaction mixture was poured in water (100 mL) and basified using sodium bicarbonate. The mixture was extracted with DCM (2×25 mL) and the combined organic layer was washed with brine solution, dried over sodium sulfate and concentrated completely under reduced pressure at 40° C. Crude material was purified by preparative-HPLC to give 2.7 mg of N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)-4-hydroxyphenyl)acrylamide. 1H NMR: DMSO-d6 (400 MHz) 3.25 (s, 3H), 3.58 (s, 2H), 3.91 (s, 2H), 5.70 (d, 1H, J=10), 6.20 (d, 1H, J=16.8), 6.39 (dd, 1H, J=10.4, 17.2), 6.65 (d, 2H, J=8.8), 6.87 (d, 1H, J=8.8), 7.45 (m, 3H), 7.78 (s, 1H), 8.01 (s, 1H), 8.21 (s, 1H), 8.48 (s, 1H), 8.92 (s, 1H), 9.98 (s, 1H).

reactant | 4-amino-2-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenol | 5 mL, 0.075 g | NC1=CC(=C(C=C1)O)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C19H20FN5O3
reactant | acryloyl chloride | 3 mL, 0.019 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)-4-hydroxyphenyl)acrylamide | 2.7 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1O)NC(C=C)=O | C22H22FN5O4
